US04034107
A stirred suspension of 2-amino-1-(3-methoxycarbonyl-2-thioureido)-4-thiocyanatobenzene (5.6 g.) in dichloromethane (190 ml.) was treated in one portion at room temperature with N,N-dimethylglycyl chloride hydrochloride (3.82 g.). The stirring was continued for one hour and the mixture was allowed to stand overnight. The solid was filtered off and recrystallised from methanol to give 1-(3-methoxycarbonyl-2-thioureido)-2-(2-dimethylaminoacetamido)-4-thiocyanatobenzene hydrochloride (4.35 g.), m.p. 192°-193° C. (with decomposition).

reactant | 2-amino-1-(3-methoxycarbonyl-2-thioureido)-4-thiocyanatobenzene | 5.6 g | NC1=C(C=CC(=C1)SC#N)NC(=S)NC(=O)OC | C10H10N4O2S2
reactant | N,N-dimethylglycyl chloride hydrochloride | 3.82 g | Cl.CN(CC(=O)Cl)C
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
product | 1-(3-methoxycarbonyl-2-thioureido)-2-(2-dimethylaminoacetamido)-4-thiocyanatobenzene hydrochloride | 4.35 g | Cl.COC(=O)NC(NC1=C(C=C(C=C1)SC#N)NC(CN(C)C)=O)=S | InChI=1S/C14H17N5O3S2.ClH/c1-19(2)7-12(20)16-11-6-9(24-8-15)4-5-10(11)17-13(23)18-14(21)22-3;/h4-6H,7H2,1-3H3,(H,16,20)(H2,17,18,21,23);1H
